US04507234
Part of the reaction product was dissolved in a solution of 0.1M phosphate buffer--0.1M NaCl--1 mM EDTA (pH 7.6) and excess 5,5'-dithiobis-(2-nitrobenzoic acid) (DTNB) was added thereto. The mixture was allowed to react overnight at 4° C. The reaction solution was passed through a column of Sephadex G-25 (0.01M-sodium phosphate buffer--1.14M NaCl--1 mM EDTA) and the protein eluates were pooled. The concentration of BSA contained in the pooled eluate was determined from the absorbance at 280 nm and furthermore the concentration of the thiol group contained in BSA linked with MMC was determined from the absorbance at 412 nm resulting from the 5-mercapto-2-nitrobenzoic acid which was released by added excess dithiothreitol. The value of the ratio between them was calculated as follows:

reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | 5,5'-dithiobis-(2-nitrobenzoic acid) | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)SSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C14H8N2O8S2
solvent | phosphate | 0.1M | P(=O)([O-])([O-])[O-]
product | 5-mercapto-2-nitrobenzoic acid | SC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H5NO4S
